US04437880
To a solution of 3-(3-phenyl-1-propenyl)nitrobenzene (10.5 g) in 200 ml of ethanol were added 70 ml of 35% ammonia water and 44 g of sodium disulfide. After heating under reflux for 2 hours, the solvent was removed under reduced pressure, followed by extraction with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was removed by distillation under reduced pressure to give 7.8 g of 3-(3-phenyl-1-propenyl)aniline (yield, 85%). B.P. 128°-130° C./0.09 mmHg.

reactant | 3-(3-phenyl-1-propenyl)nitrobenzene | 10.5 g | C1(=CC=CC=C1)CC=CC=1C=C(C=CC1)[N+](=O)[O-] | C15H13NO2
reactant | ammonia water | 70 ml | O.N
reactant | sodium disulfide | 44 g | [S-][S-].[Na+].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(3-phenyl-1-propenyl)aniline | 7.8 g, 85% | C1(=CC=CC=C1)CC=CC=1C=C(N)C=CC1 | C15H15N
